US04224438
Adenosine-5'-carboxylic acid N-allylamide
with dimethylaminoethylamine: adenosine-5'-carboxylic acid N-(2-dimethylaminoethyl)-amide; m.p. 136°-138° C.; yield 84% of theory.

reactant | dimethylaminoethylamine | CN(C)CCN | C4H12N2
reactant | adenosine-5'-carboxylic acid N-(2-dimethylaminoethyl)-amide | CN(CCNC(=O)C([C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O)O)C | C15H23N7O5
product | Adenosine-5'-carboxylic acid N-allylamide | yield 84% | C(C=C)NC(=O)C([C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O)O | C14H18N6O5
